US06069176
47% Hydrobromic acid (140 ml) was gradually added to (trans)-3-(3-methoxyphenyl) cyclohexylamine (14.0 g) and the mixture was refluxed for an hour. After adjusting the reaction solution to pH7 with sodium bicarbonate (powder), it was adjusted to pH9 with concentrated ammonia water. After filtering the deposited crystals by suction and washing with water, they were dried by ventilation at 45° C. for 5 hours to give 8.58 g of (trans)-3-(3-aminocyclohexyl)phenol (65.8% yield).

reactant | (trans)-3-(3-methoxyphenyl) cyclohexylamine | 14.0 g | COC=1C=C(C=CC1)[C@@H]1C[C@H](CCC1)N | C13H19NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ammonia water | O.N
solvent | Hydrobromic acid | 140 ml | Br | BrH
product | (trans)-3-(3-aminocyclohexyl)phenol | 8.58 g, 65.8% yield | N[C@@H]1C[C@H](CCC1)C=1C=C(C=CC1)O | C12H17NO
